US08044090B2
4-Fluoro-3-phenoxybenzaldehyde
Combine 4-fluoro-1-methyl-3-phenoxybenzene (2.43 g, 12.0 mmol), N-bromosuccinimide (4.92 g, 27.6 mmol), benzoyl peroxide (408 mg, 1.68 mmol), and carbon tetrachloride (55 mL). Heat the mixture at reflux temperature for 6.5 h and cool to 0° C. for 64 h. Filter the solids and concentrate the filtrate. Dissolve the residue in chloroform and wash with ice cold sodium carbonate solution. Dry the chloroform solution over sodium sulfate, filter and concentrate under reduced pressure. Dissolve the residue in acetonitrile (50 mL) and add 4-methylmorpholine-4-oxide (4.6 g, 39.1 mmol) and powdered 4 Å sieves (200 mg). Stir at ambient temperature for 20 h, filter and concentrate. Purify by silica gel chromatography (5%, 30% ethyl acetate/hexanes) to give 220 mg (8%) of the title compound: MS (m/e): 216 (M+).

reactant | 4-fluoro-1-methyl-3-phenoxybenzene | 12.0 mmol, 2.43 g | FC1=C(C=C(C=C1)C)OC1=CC=CC=C1 | C13H11FO
reactant | N-bromosuccinimide | 27.6 mmol, 4.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.68 mmol, 408 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 4-methylmorpholine-4-oxide | 39.1 mmol, 4.6 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | carbon tetrachloride | 55 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Fluoro-3-phenoxybenzaldehyde | 220 mg, 8% | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
